US05246926
(6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl)ceph-3-em-4-carboxylic acid
t-Butyl (6R,7R)-3-[(5S)-2-oxotetrahydrofuran-5-yl]-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate (0.22 g) was dissolved in 0.1M hydrochloric acid in 90% formic acid (2.5 ml) and stirred for 1 h. Concentrated hydrochloric acid (0.1 ml) was added and stirring was continued for a further 0.5 h. The precipitate was filtered off, washed with 90% formic acid, and the filtrate was evaporated to dryness. The residue in water was adjusted to pH3 with solid potassium carbonate, washed with ether and freeze dried. The crude product (0.153 g) was chromatographed on HP20SS, eluting with 0,2,4,6% THF in water. Fractions containing the title compound were combined, concentrated and freeze dried (41 mg, 40%), νmax (KBr) 1764, 1664, 1609, 1529, 1389 and 1184 cm-1 ; δH (D2O) 2.1-2.8 (4H,m , 3.37 and 3.63, 3.39 and 3.53 (2H,2ABq,J17.5,17.8 Hz), 5.21, 5.23 (1H,2d, J4.6 Hz), 5.5-5.65 (1H,m), 5.82 (1H,d,J4.6 Hz), 6.95 (1H,s); [mass spectrum: + ve ion (thioglyerol) MH+, 454].

reactant | t-Butyl (6R,7R)-3-[(5S)-2-oxotetrahydrofuran-5-yl]-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate | 0.22 g | O=C1O[C@@H](CC1)C=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C58H51N5O7S2
solvent | hydrochloric acid | 0.1M | Cl | ClH
solvent | formic acid | 2.5 ml | C(=O)O | CH2O2
solvent | hydrochloric acid | 0.1 ml | Cl | ClH
product | (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl)ceph-3-em-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2CCC(O2)=O)C(=O)O)C1=O)=N/O | C16H15N5O7S2
